US09126931B2
6-Cyano-2-(2-(4-ethyl-3-(4-morpholin-4-yl-piperidin-1-yl)phenyl)propan-2-yl)-1H-indole-3-carboxylic acid
Tert-butyl 6-cyano-2-(2-(4-ethyl-3-(4-morpholin-4-yl-piperidin-1-yl)phenyl)propan-2-yl)-1H-indole-3-carboxylic acid hydrochloric acid salt (1400 g) was suspended in TFE (7 L) under nitrogen stream, and added dropwise with TMSCl (554 ml) at 8° C. After stirring for 3 hrs, the reaction solution was added with acetone (5.6 L) and aqueous solution of NaOH (1 N, 4.39 L), and 10% aqueous solution of K2HPO4 (1.4 L) was added thereto for neutralization. The precipitated solid was filtered and collected, washed twice with a mixture solution of water:acetone (=1:1, 2.8 L), and dried to obtain the title compound (1061 g, 96.6%).

reactant | Tert-butyl 6-cyano-2-(2-(4-ethyl-3-(4-morpholin-4-yl-piperidin-1-yl)phenyl)propan-2-yl)-1H-indole-3-carboxylic acid hydrochloric acid salt | 1400 g | Cl.C(C)(C)(C)N1C(=C(C2=CC=C(C=C12)C#N)C(=O)O)C(C)(C)C1=CC(=C(C=C1)CC)N1CCC(CC1)N1CCOCC1
reactant | TMSCl | 554 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | NaOH | 1 N, 4.39 L | [OH-].[Na+]
reactant | K2HPO4 | 1.4 L | OP(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 5.6 L | CC(=O)C | C3H6O
product | 6-Cyano-2-(2-(4-ethyl-3-(4-morpholin-4-yl-piperidin-1-yl)phenyl)propan-2-yl)-1H-indole-3-carboxylic acid | 1061 g, 96.6% | C(#N)C1=CC=C2C(=C(NC2=C1)C(C)(C)C1=CC(=C(C=C1)CC)N1CCC(CC1)N1CCOCC1)C(=O)O | C30H36N4O3
